US04495372
Preparation of 1-Nitronaphthalene
To a 2-liter resin flask equipped with a stirrer, thermometer, a dropping funnel, a N2 sparge tube and a condenser vented to a caustic scrubber was added 1025 g (8.0 moles) naphthalene. The reactor contents were heated until the naphthalene became molten, at which time agitation was started, and the heating was stopped. 680 ml nitric acid (72.5% concentration, 10.0 moles) was introduced over a period of 3 hours. During the first 40 minutes of addition time the temperature was gradually reduced to about 62° C. and for the remaining addition period the reaction temperature was maintained between 50° and 60° C. By using reduced pressure (ca. 25 mm Hg) water and excess nitric acid were distilled off at 60°-75° C. for about 1.25 hours, and residual water and HNO3 was driven off by sparging the molten reaction product with nitrogen gas while maintaining reduced pressure. During the 30 minutes sparging period the temperature was kept at 75°-80° C. The molten product (1408.5 g, 100% of theory) was removed from the reactor.

reactant | naphthalene | 8.0 moles, 1025 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | nitric acid | 10.0 moles, 680 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 1-Nitronaphthalene | [N+](=O)([O-])C1=CC=CC2=CC=CC=C12 | C10H7NO2
